US04052455
Reaction of acetamidine with 4-chlorostyrylsulfonyl chloride according to the above procedure affords N-[(4-CHLOROSTYRYL)-SULFONYL]ACETAMIDINE, m.p. 161°-163° C., crystallized from ethyl acetate.

reactant | acetamidine | C(C)(=N)N | C2H6N2
reactant | 4-chlorostyrylsulfonyl chloride | ClC1=CC=C(C=CS(=O)(=O)Cl)C=C1 | C8H6Cl2O2S
product | N-[(4-CHLOROSTYRYL)-SULFONYL]ACETAMIDINE | ClC1=CC=C(C=CS(=O)(=O)NC(C)=N)C=C1 | C10H11ClN2O2S
